* C:\users\delarosa\Desktop\senior-design\spice-sims\Output_python_generated.asc
V1 Vi 0 wavefile="sound_input.wav"chan=0 AC 1
V2 VDD 0 9
V3 VSS 0 -9
V4 BD 0 -8
XX4 C1 VDD VSS 0 N003 BD BD rb011
R3 N003 N002 10k
R6 C1 N003 {R1}
XX1 C2 VDD VSS 0 N008 BD BD rb011
R2 C2 N008 {R3}
XX3 C3 VDD VSS 0 N012 BD BD rb011
C2 N011 N010 2n
R5 C3 N012 {R5}
L1 N001 Vi 1.5
R1 N008 N007 10k
R4 N012 N011 10k
XX2 N004 VDD VSS C1 N004 BD BD rb011
XX5 N009 VDD VSS C2 N009 BD BD rb011
R7 N005 N004 100k
R8 N005 N009 100k
XX6 Vo VDD VSS 0 N005 BD BD rb011
R9 Vo N005 {R7}
XX7 N013 VDD VSS C3 N013 BD BD rb011
R10 N005 N013 100k
R14 N003 0 {R2}
R15 N008 0 {R4}
R16 N012 0 {R6}
L8 N006 Vi .2652
L10 N010 Vi .07958
C7 N007 N006 15.915n
C1 N002 N001 795.77n
R11 Vo Vo2 90k
R12 Vo2 0 10k

* block symbol definitions
.subckt rb011 OUT VDD VSS + - BD BS
M1 N001 - N004 N004 RB01n
M2 N002 + N004 N004 RB01n
M3 VDD N001 N002 VDD RB01p
M4 VDD N001 N001 VDD RB01p
R2 OUT N003 100k
C1 N003 N002 1f
M6 VDD N002 OUT VDD RB01p2
M5 N004 BD Vss Vss RB01n
M7 OUT BS Vss Vss RB01n2
.model RB01n2 NMOS(L=3u W=13.158u Gamma=0.2 Lambda=0.0132 Vto=0.3
+ Uo=500 Tox=18.2n Level=1)
.model RB01p2 PMOS(L=3u W=48u Gamma=0.2 Lambda=0.0132 Vto=-0.3
+ Uo=250 Tox=18.2n Level=1)
.model RB01n NMOS(L=3u W=24u Gamma=0.2 Lambda=0.0132 Vto=0.3
+ Uo=500 Tox=18.2n Level=1)
.model RB01p PMOS(L=3u W=48u Gamma=0.2 Lambda=0.0132 Vto=-0.3
+ Uo=250 Tox=18.2n Level=1)
.ends rb011

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\delarosa\Documents\LTspiceXVII\lib\cmp\standard.mos
* .four 1k 20 v(vo)
.op
;ac dec 100000 2 200000
.tran 10
.wave "sound_output.wav" 16 44100 Vo2
* .step param vbd -6.9 -6.85 -.01
* .param in=0
* .step param Val 1 80 1
.param R7=100k
* .four 1k 20 v(C1)
* .four 1k 20 v(C2)
* .four 1k 20 v(C3)
.param R1=80k
.param R2=10k
.param R3=10k
.param R4=10k
.param R5=10k
.param R6=10k
* The custom power supply cannot be hooked up\nthis is due to the simulation entering thread errors
* Simulation Commands
* User Inputs
* Comments
* Voltage Supplies
* Freq. Channels
* Unity buffer and Summing Circuit
* Power Amplifier
* ideal L= .07958 H C= 2nF
* ideal L= .2652 H C=15.915 nF
* ideal C= 795.77 nF
* Created by Jakub Ostrowski, May 5, 2020
.backanno
.end
